US05990311
75 ml of triethylamine and 65 g(442 mmole) of 1-methyl-1,2,3,4-tetrahydroisoquinoline were added to 100 ml of 1,2-propylene glycol. 100.9 g(0.40 mmole) of 4-chloro-2-(4-fluorophenylamino)-5,6-dimethylpyrimidine was added thereto and then reacted at 120° C. for 64 hours under refluxing to prepare 5,6-dimethyl-2-(4-fluorophenylamino)-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine. This product was treated according to the procedure detailed in Example 14 to obtain 91 g of purified 5,6-dimethyl-2-(4-fluorophenylamino)-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride.

reactant | 1-methyl-1,2,3,4-tetrahydroisoquinoline | 442 mmole, 65 g | CC1NCCC2=CC=CC=C12 | C10H13N
reactant | 1,2-propylene glycol | 100 ml | C(C(C)O)O | C3H8O2
reactant | 4-chloro-2-(4-fluorophenylamino)-5,6-dimethylpyrimidine | 0.40 mmole, 100.9 g | ClC1=NC(=NC(=C1C)C)NC1=CC=C(C=C1)F | C12H11ClFN3
reactant | 5,6-dimethyl-2-(4-fluorophenylamino)-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine | CC=1C(=NC(=NC1C)NC1=CC=C(C=C1)F)N1C(C2=CC=CC=C2CC1)C | C22H23FN4
solvent | triethylamine | 75 ml | C(C)N(CC)CC | C6H15N
product | 5,6-dimethyl-2-(4-fluorophenylamino)-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride | 91 g, Yield: 57.1% | Cl.CC=1C(=NC(=NC1C)NC1=CC=C(C=C1)F)N1C(C2=CC=CC=C2CC1)C | InChI=1S/C22H23FN4.ClH/c1-14-15(2)24-22(25-19-10-8-18(23)9-11-19)26-21(14)27-13-12-17-6-4-5-7-20(17)16(27)3;/h4-11,16H,12-13H2,1-3H3,(H,24,25,26);1H
